US07098212B2
2-Amino-3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-propionic acid ethyl ester
To a solution of 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-2-nitro-propionic acid ethyl ester (0.035 g, 0.065 mmol) in acetic acid (1 ml) was added zinc dust (0.085 g, 1.3 mmol). After 2 hours of heating at 60° C. the reaction was filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.033 g).

reactant | 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-2-nitro-propionic acid ethyl ester | 0.065 mmol, 0.035 g | C(C)OC(C(CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)[N+](=O)[O-])=O | C26H31ClFN3O6
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.3 mmol, 0.085 g | [Zn] | Zn
product | 2-Amino-3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-propionic acid ethyl ester | 0.033 g | C(C)OC(C(CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)N)=O | C26H33ClFN3O4
